US08202873B2
{4-[4-(1,3,5-Trimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-phenyl}-methanol hydrochloride
Stir together 4-(hydroxymethyl)benzeneboronic acid (182 mg, 1.2 mmol), 3′-chloro-4-(1,3,5-trimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (321 mg, 1.0 mmol), potassium carbonate (332 mg, 2.4 mmol) and tetrakis(triphenylphosphine)palladium(0) (58 mg, 5 μmol) in dry N,N-dimethylacetamide (4 mL) and water (2 mL) at room temperature. Heat to 120° C. for 6 hr. under nitrogen. Cool to room temperature, purify using SCX chromatography and further purify using silica gel chromatography eluting with (5:95 to 20:80 methanol:DCM). Dissolve in acetonitrile, and add 2 M aq. HCl and water then lyophilize to give the title compound as a peach coloured powder (405 mg, 94%). MS (ES): m/z=393 [M+H].

reactant | 4-(hydroxymethyl)benzeneboronic acid | 1.2 mmol, 182 mg | OCC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | 3′-chloro-4-(1,3,5-trimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 1.0 mmol, 321 mg | ClC=1C(=NC=CN1)N1CCN(CC1)CC=1C(=NN(C1C)C)C | C15H21ClN6
reactant | potassium carbonate | 2.4 mmol, 332 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylacetamide | 4 mL | CN(C(C)=O)C | C4H9NO
solvent | water | 2 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 5 μmol, 58 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | {4-[4-(1,3,5-Trimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-phenyl}-methanol hydrochloride | Cl.CN1N=C(C(=C1C)CN1CCN(CC1)C1=NC=CN=C1C1=CC=C(C=C1)CO)C | InChI=1S/C22H28N6O.ClH/c1-16-20(17(2)26(3)25-16)14-27-10-12-28(13-11-27)22-21(23-8-9-24-22)19-6-4-18(15-29)5-7-19;/h4-9,29H,10-15H2,1-3H3;1H
